US03931217
A solution of 18.6 g. of 4'-chloro-2-hydroxymethylbenzhydrol in 100 ml. of acetic acid and 10.4 g. selenium dioxide was refluxed for 2 hours. The mixture was poured on ice and made alkaline and extracted with ether. Concentration of the ether solution and addition of petroleum ether gave pale yellow prisms which after recrystallization from a mixture of ether and petroleum ether gave 2-(p-chlorobenzoyl)-benzaldehyde melting at 112°-113°. Ultraviolet inflexion (2-propanol) at 225 mμ (ε = 17,500) and maximum at 259 mμ (ε = 22,500), infrared absorption (CHCl3) at 1670 cm-1 and 1705 cm-1.

reactant | 4'-chloro-2-hydroxymethylbenzhydrol | ClC1=CC=C(C(C2=C(C=CC=C2)CO)O)C=C1 | C14H13ClO2
reactant | selenium dioxide | [Se](=O)=O | O2Se
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(p-chlorobenzoyl)-benzaldehyde | ClC1=CC=C(C(=O)C2=C(C=O)C=CC=C2)C=C1 | C14H9ClO2
